* Copyright © Linear Technology Corp. 2013.  All rights reserved.
*
.subckt LT1763-1.5 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 N007 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N008 3 1.2µ
G1 8 N002 N008 3 1.2µ
R1 8 N001 600K
R8 N009 1 .1
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 20m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
C4 2 3 1p
R9 2 N007 56K
R10 N007 3 244K
G4 0 N010 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
G5 N010 0 N008 3 table(0 1.85m 1 0)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763-1.5
*
.subckt LT1763-1.8 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 N007 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N008 3 1.2µ
G1 8 N002 N008 3 1.2µ
R1 8 N001 600K
R8 N009 1 .1
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 20m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
C4 2 3 1p
R9 2 N007 116K
R10 N007 3 244K
G4 0 N010 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
G5 N010 0 N008 3 table(0 1.85m 1 0)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763-1.8
*
.subckt LT1763-2.5 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 N007 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N008 3 1.2µ
G1 8 N002 N008 3 1.2µ
R1 8 N001 600K
R8 N009 1 .1
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 20m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
C4 2 3 1p
R9 2 N007 255K
R10 N007 3 244K
G4 0 N010 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
G5 N010 0 N008 3 table(0 1.85m 1 0)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763-2.5
*
.subckt LT1763-3.3 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 N007 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N008 3 1.2µ
G1 8 N002 N008 3 1.2µ
R1 8 N001 600K
R8 N009 1 .1
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 20m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
C4 2 3 1p
R9 2 N007 415K
R10 N007 3 244K
G4 0 N010 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
G5 N010 0 N008 3 table(0 1.85m 1 0)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763-3.3
*
.subckt LT1763-3 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 N007 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N008 3 1.2µ
G1 8 N002 N008 3 1.2µ
R1 8 N001 600K
R8 N009 1 .1
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 20m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
C4 2 3 1p
R9 2 N007 355K
R10 N007 3 244K
G4 0 N010 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
G5 N010 0 N008 3 table(0 1.85m 1 0)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763-3
*
.subckt LT1763-5 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 N007 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N008 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N008 3 1.2µ
G1 8 N002 N008 3 1.2µ
R1 8 N001 600K
R8 N009 1 .1
A2 N010 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 20m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
C4 2 3 1p
R9 2 N007 754K
R10 N007 3 244K
G4 0 N010 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
G5 N010 0 N008 3 table(0 1.85m 1 0)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763-5
*
.subckt LT1763 1 2 3 4 5 6 7 8
Q1 N008 N001 8 0 PN
Q2 N001 N002 3 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 27p Rser=225K
Q4 N003 N003 4 0 NP 10 temp=27
R2 4 3 12K
R3 N004 3 10K
C2 1 N003 21p
Q5 1 2 N005 0 FB temp=27
R6 N005 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N007 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N003 N007 3 1.2µ
G1 8 N002 N007 3 1.2µ
R1 8 N001 600K
R8 N008 1 .1
A2 N009 0 N002 N002 N002 N002 3 N002 VARISTOR
D3 0 N009 F
G3 0 N009 1 N008 20m
Q7 N003 N001 N008 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
G5 N009 0 N007 3 table(0 1.85m 1 0)
C4 2 3 1p
G4 0 N009 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
C6 8 N003 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1763
*
.subckt LT3029 1 2 3 4 5 6 7 8 9 10 11
Q1 N013 N009 8 0 PN
Q2 N009 N017 3 0 NA
Q3 N017 N007 N021 0 NP temp=27
C1 N017 N007 27p Rser=225K
Q4 N007 N007 4 0 NP 10 temp=27
R2 4 3 12K
R3 N021 3 10K
C2 1 N007 21p
Q5 1 2 N019 0 FB temp=27
R6 N019 4 106.8K
R5 5 3 10Meg
I1 5 3 1µ load
A1 5 3 3 3 3 3 N002 3 SCHMITT Vt=.75 Vh=1m trise=1m
G2 8 N007 N002 3 1.2µ
G1 8 N017 N002 3 1.2µ
R1 8 N009 600K
R8 N013 1 .1
A2 N011 0 N017 N017 N017 N017 3 N017 VARISTOR
D3 0 N011 F
G3 0 N011 1 N013 20m
Q7 N007 N009 N013 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
G5 N011 0 N002 3 table(0 1.85m 1 0)
C4 2 3 1p
G4 0 N011 8 0 table(1.3 1m 2.4 1.85m 10 2.3m)
C6 8 N007 100p Rser=.45G Rpar=6G
Q6 N014 N010 7 0 PN
Q8 N010 N018 3 0 NA
Q9 N018 N008 N022 0 NP temp=27
C9 N018 N008 27p Rser=225K
Q10 N008 N008 11 0 NP 10 temp=27
R4 11 3 12K
R9 N022 3 10K
C10 9 N008 21p
Q11 9 10 N020 0 FB temp=27
R10 N020 11 106.8K
R11 6 3 10Meg
I2 6 3 1µ load
A3 6 3 3 3 3 3 N004 3 SCHMITT Vt=.75 Vh=1m trise=1m
G6 7 N008 N004 3 1.2µ
G7 7 N018 N004 3 1.2µ
R12 7 N010 600K
R13 N014 9 .1
A4 N012 0 N018 N018 N018 N018 3 N018 VARISTOR
D2 0 N012 F
G8 0 N012 9 N014 20m
Q12 N008 N010 N014 0 P 1m
D4 7 9 X
C12 9 3 10p
C13 7 3 10p
C14 11 3 1p
G9 N012 0 N004 3 table(0 1.85m 1 0)
C15 10 3 1p
G10 0 N012 7 0 table(1.3 1m 2.4 1.85m 10 2.3m)
C16 7 N008 100p Rser=.45G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT3029
*
.subckt LT3030 1 2 3 4 5 6 7 8 9 10 11 12 13
Q1 N012 N010 8 0 PN
Q2 N010 N015 3 0 NA
Q3 N015 N009 N018 0 NP temp=27
C1 N015 N009 27p Rser=225K
Q4 N009 N009 4 0 NP 10 temp=27
R2 4 3 12K
R3 N018 3 10K
C2 1 N009 21p
Q5 N014 2 N017 0 FB temp=27
R6 N017 4 106.8K
A1 5 3 3 3 3 3 N004 3 SCHMITT Vt=1.02 Vh=.19 trise=30n
G2 8 N009 N004 3 1.2µ
G1 8 N015 N004 3 1.2µ
R1 8 N010 600K
R8 N012 1 .1
A2 N011 0 N015 N015 N015 N015 3 N015 VARISTOR
D3 0 N011 F
G3 0 N011 1 N012 20m
Q7 N009 N010 N012 0 P 1m
D1 8 1 X
C5 1 3 10p
C7 8 3 10p
C8 4 3 1p
G5 0 N011 N004 3 table(0 -3m 1 0)
C4 2 3 1p
G4 0 N011 8 1 table(2 2.5m 7 2.9m 10 .5m)
C6 8 N009 100p Rser=.45G Rpar=6G
C12 9 3 10p
C13 7 3 10p
C14 11 3 1p
C15 10 3 1p
C17 12 3 10p
S1 3 12 N005 3 PGDS
A5 N004 3 3 N006 3 3 N005 3 AND Trise=.1u
A6 2 3 3 3 3 N006 3 3 SCHMITT Vt=1.088 Vh=10m Trise=80u Tfall=.1u
R15 8 N014 5.7k
D6 2 8 ESD1
D7 3 2 ESD2
J15 5 3 N002 inpu
C18 5 3 1p
R5 N002 N008 12Meg
R16 N002 3 12.1Meg
Q13 8 N008 N007 0 NP
R17 N007 3 3.65Meg
Q6 N031 N029 7 0 PN
Q8 N029 N034 3 0 NA
Q9 N034 N028 N037 0 NP temp=27
C9 N034 N028 27p Rser=225K
Q10 N028 N028 11 0 NP 10 temp=27
R4 11 3 12K
R9 N037 3 10K
C10 9 N028 21p
Q11 N033 10 N036 0 FB temp=27
R10 N036 11 106.8K
A3 6 3 3 3 3 3 N023 3 SCHMITT Vt=1.02 Vh=.19 trise=30n
G6 7 N028 N023 3 1.2µ
G7 7 N034 N023 3 1.2µ
R11 7 N029 600K
R12 N031 9 .3
A4 N030 0 N034 N034 N034 N034 3 N034 VARISTOR
D2 0 N030 F
G8 0 N030 9 N031 20m
Q12 N028 N029 N031 0 P 1m
D4 7 9 X
G9 0 N030 N023 3 table(0 -3m 1 0)
G10 0 N030 7 9 table(2 2.5m 7 2.9m 10 .5m)
C16 7 N028 100p Rser=.45G Rpar=6G
S2 3 13 N024 3 PGDS
A7 N023 3 3 N025 3 3 N024 3 AND Trise=.1u
A8 10 3 3 3 3 N025 3 3 SCHMITT Vt=1.088 Vh=10m Trise=80u Tfall=.1u
R13 7 N033 5.7k
D5 10 7 ESD1
D8 3 10 ESD2
J14 6 3 N021 inpu
R18 N021 N027 12Meg
R20 N021 3 12.1Meg
Q14 7 N027 N026 0 NP
R21 N026 3 3.65Meg
C20 6 3 1p
C21 13 3 10p
.model X D(Ron=10 Vfwd=30)
.model PGDS SW(Ron=150 Roff=1G Vt=.5 Vh=-.1)
.model ESD1 D(Ron=2.7K Roff=5G Vfwd=3)
.model ESD2 D(Ron=1.2K Roff=5G Vfwd=1.5)
.model P PNP(BF=100)
.model F D(Ron=1m Roff=100K)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model NA NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n Is=1.722e-17)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model INPU NJF(Vto=-6.5 beta=10u Rd=300K)
.ends LT3030
